US04271164
4-Amino-2,6-dimethylpyrimidine-5-carboxaldehyde is then condensed with 2,6-dichlorophenylacetonitrile. The product is isolated and purified in the manner described in Example 6, yielding 6-(2,6-dichlorophenyl)-2,4-dimethylpyrido[2,3-d]pyrimidin-7-amine, mp 239°-240° C., after recrystallization from ethyl acetate.

reactant | 4-Amino-2,6-dimethylpyrimidine-5-carboxaldehyde | NC1=NC(=NC(=C1C=O)C)C | C7H9N3O
reactant | 2,6-dichlorophenylacetonitrile | ClC1=C(C(=CC=C1)Cl)CC#N | C8H5Cl2N
product | 6-(2,6-dichlorophenyl)-2,4-dimethylpyrido[2,3-d]pyrimidin-7-amine | ClC1=C(C(=CC=C1)Cl)C1=CC2=C(N=C(N=C2C)C)N=C1N | C15H12Cl2N4
